US06150363
(1) N-(4-Benzoyl-2-nitrophenyl)anthranilic acid
A mixture of anthranilic acid (1.37 g, 10 mmol.), 4-chloro-3-nitrobenzophenone (2.88 g, 11 mmol.), anhydrous potassium carbonate (powder, 2.77 g, 20 mmol.), copper (powder, 50 mg), and isoamyl alcohol (25 mL) was stirred and heated for one hour under reflux. The reaction mixture was cooled to room temperature, and stirred for 15 minutes after addition of water (30 mL) and ether (30 mL). The insoluble red-brown solid was collected by filtration and washed with water and ether. The red-brown solid mainly comprising a potassium salt of the desired compound was suspended in water (40 mL). To the suspension was added 2M hydrochloric acid until an aqueous portion of the suspension showed approximately pH 2. The suspension was vigorously stirred for one hour at room temperature. The deposited crystalline precipitate was collected by filtration and washed with several portions of water and ether. The washed precipitate was placed under reduced pressure at 60° C. for 3 hours to dryness. Thus, 2.34 g (65%) of the desired compound was obtained as a yellow-orange crystalline product.

reactant | anthranilic acid | 10 mmol, 1.37 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 4-chloro-3-nitrobenzophenone | 11 mmol, 2.88 g | ClC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8ClNO3
reactant | potassium carbonate | 20 mmol, 2.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | isoamyl alcohol | 25 mL | C(CC(C)C)O | C5H12O
catalyst | copper | 50 mg | [Cu] | Cu
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | water | 30 mL | O | H2O
product | N-(4-Benzoyl-2-nitrophenyl)anthranilic acid | 2.34 g, 65% | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)NC=1C(C(=O)O)=CC=CC1)[N+](=O)[O-] | C20H14N2O5
